US08084448B2
5-(2-Hydroxy-4-{2-[2-(4-trifluoromethylbenzenesulfonyl)-1,2,3,4-tetrahydroisoquinolin-3-yl]-ethyl}-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-{2-benzyloxy-4-[(E)-2-(1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and 4-trifluoromethylbenzenesulfonyl chloride analogous to Example 200, steps F, G and H: (M−1)−=546.

reactant | 5-{2-benzyloxy-4-[(E)-2-(1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C1NCC2=CC=CC=C2C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C31H37N3O4SSi
reactant | 4-trifluoromethylbenzenesulfonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 5-(2-Hydroxy-4-{2-[2-(4-trifluoromethylbenzenesulfonyl)-1,2,3,4-tetrahydroisoquinolin-3-yl]-ethyl}-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CCC1N(CC2=CC=CC=C2C1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)N1CC(NS1(=O)=O)=O | C26H24F3N3O6S2
